US08877968B2
8-2 Methyl(S)-3-(4-methoxyphenyl)-2-(4-nitrophenoxycarbonylamino)propionate
1 g (4.8 mmol) of methyl(S)-2-amino-3-(4-methoxyphenyl)propionate (cf. preparation 2-1) is diluted in 30 mL of dichloromethane. The solution is cooled in a bath of cold water, and 1.4 g (7.2 mmol) of 4-nitrophenyl chloroformate and 1.2 mL (7.2 mmol) of diisopropylethylamine are then added. After warming to room temperature, the reaction medium is stirred for 2 hours. The solution is poured into water and then extracted with dichloromethane. The organic phase is dried and then evaporated. The crude product obtained is used in the following step without further purification.

reactant | methyl(S)-2-amino-3-(4-methoxyphenyl)propionate | 4.8 mmol, 1 g | N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC | C11H15NO3
reactant | water | O | H2O
reactant | 4-nitrophenyl chloroformate | 7.2 mmol, 1.4 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 7.2 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Methyl(S)-3-(4-methoxyphenyl)-2-(4-nitrophenoxycarbonylamino)propionate | COC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H18N2O7
